US05051423
2-[4-(1H-Imidazol-1-yl)phenoxy]-1,1-dimethylethanamine
Partially dissolve 30.69 g (0.1 mol) of 2-[4-(1H-imidazol-1-yl)phenoxy]-1,1-dimethylethanamine dihydrochloride in 50 mL of water and make basic with 70 mL 4 N NaOH. Extract this mixture with 2×100 mL of methylene chloride. Remove the solvent on a rotary evaporator to provide the title compound.

reactant | 2-[4-(1H-imidazol-1-yl)phenoxy]-1,1-dimethylethanamine dihydrochloride | 0.1 mol, 30.69 g | Cl.Cl.N1(C=NC=C1)C1=CC=C(OCC(N)(C)C)C=C1
reactant | NaOH | 4 N, 70 mL | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 2-[4-(1H-Imidazol-1-yl)phenoxy]-1,1-dimethylethanamine | N1(C=NC=C1)C1=CC=C(OCC(N)(C)C)C=C1 | C13H17N3O
